US07625932B2
Preparation of trifluoro-methanesulfonic acid 2-propyl-phenyl ester
Add pyridine (1.74 g, 22.00 mmol) to 2-propylphenol (2.00 g, 14.68 mmol) in methylene chloride and stir at room temperature. After 10 minutes, cool to 0° C. Add trifluoromethanesulfonic anhydride (5.00 g, 17.72 mmol) and gradually allow the reaction to warm to ambient temperature. After 2 hours, add water to the reaction mixture and extract with methylene chloride. Combine the organic extracts, wash with 1N HCl, water and brine, dry over anhydrous magnesium sulfate, filter and concentrate under reduced pressure to provide the title compound. 1H NMR (400 MHz; CDCl3) δ-7.24-7.32(m, 4H), 2.67(t, 2H), 1.65(m, 2H), 0.97(t, 3H).

reactant | pyridine | 22.00 mmol, 1.74 g | N1=CC=CC=C1 | C5H5N
reactant | 2-propylphenol | 14.68 mmol, 2.00 g | C(CC)C1=C(C=CC=C1)O | C9H12O
reactant | trifluoromethanesulfonic anhydride | 17.72 mmol, 5.00 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | trifluoro-methanesulfonic acid 2-propyl-phenyl ester | C(CC)C1=C(C=CC=C1)OS(=O)(=O)C(F)(F)F | C10H11F3O3S
